US06426360B1
4-Chloro-3-methylbenzoic acid, methyl ester (Lancaster) (29 mmol, 5.40 g) was dissolved in methylene chloride (30 ml) and cooled to 0° C. Diisobutylaluminum hydride (1 M in toluene, 64 ml) was added slowly (over ca. 10 minutes). One hour after complete addition, the reaction was quenched with methanol (64 ml), then poured into ether (500 ml). This mixture was stirred at room temperature 1 hour, filtered through silica gel and Celite®, eluting with addition ether. Concentration afforded 4-chloro-3-methylbenzyl alcohol (23 mmol, 3.53 g) as a solid, which was diluted with methylene chloride (46 ml), combined with Celite® (3.5 g) and MgSO4 (1.5. g), and cooled to 0° C. Pyridinium chlorochromate (45 mmol, 9.67 g) was added over 2-3 minutes. In 1 hour's time, the reaction mixture was filtered through silica and concentrated to afford 4-chloro-3-methylbenzaldehyde as a waxy solid (2.10 g, 47% overall), which was used in the next step.

reactant | 4-Chloro-3-methylbenzoic acid, methyl ester | 29 mmol, 5.40 g | ClC1=C(C=C(C(=O)OC)C=C1)C | C9H9ClO2
reactant | Diisobutylaluminum hydride | 1 M, 64 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-methylbenzyl alcohol | 23 mmol, 3.53 g | ClC1=C(C=C(CO)C=C1)C | C8H9ClO
